US07960369B2
methyl 4-[[3′-(hydroxymethyl)-[1,1′-biphenyl]-3-yl]methoxy]benzenepropanoate
A solution of methyl 4-[(3′-formyl-[1,1′-biphenyl]-3-yl) methoxy]benzenepropanoate (0.80 g, 2.1 mmol) in methanol (5 mL) and tetrahydrofuran (2 mL) was ice-cooled, and sodium borohydride (81 mg, 2.1 mmol) was added. The mixture was stirred under ice-cooling for 30 min. The reaction mixture was added to 0.2N hydrochloric acid (11 mL), and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure to give the title compound 0.80 g (quantitative). oil.

reactant | methyl 4-[(3′-formyl-[1,1′-biphenyl]-3-yl) methoxy]benzenepropanoate | 2.1 mmol, 0.80 g | C(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C24H22O4
reactant | sodium borohydride | 2.1 mmol, 81 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 0.2N, 11 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | methyl 4-[[3′-(hydroxymethyl)-[1,1′-biphenyl]-3-yl]methoxy]benzenepropanoate | 0.80 g | OCC=1C=C(C=CC1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C24H24O4
